US09371298B2
Dimethylsulfoxide (105 mL, 5 volumes) was added to the imidazole-1-carboxylic acid (4-pyrrolidin-1-yl-butyl)-amide/tetrahydrofuran mixture, the tetrahydrofuran was removed by distillation under vacuum. The mixture was cooled to 20° C. then 5-Amino-3-(4-bromo-2,6-difluoro-benzyloxy)-isothiazole-4-carboxylic acid methyl ester (1.00 equiv, 21.0 g) was added, followed by potassium carbonate (2.0 equiv, 15.2 g). The mixture stirred at 20° C. for 21.5 hours. Ethyl acetate (210 mL, 10 volumes) then water (210 mL, 10 volumes) were added. The slurry was stirred at 20° C. for 3-4 hours. The solids were filtered and the filter cake was rinsed with ethyl acetate (63.0 mL, 3 volumes). The solids were dried in a vacuum oven for 17 hours to give 27.36 grams of 3-(4-Bromo-2,6-difluoro-benzyloxy)-5-[3-(4-pyrrolidin-1-yl-butyl)-ureido]-isothiazole-4-carboxylic acid methyl ester (90% yield). 1H NMR: (DMSO-d6) δ 10.38 (s, 1H); 8.11 (m, 1H); 7.54 (m, 2H); 5.30 (s, 2H); 3.70 (s, 3H); 3.12 (m, 2H); 2.48 (m, 6H); 1.63 (m, 4H); 1.44 (m, 4H). MS (API-ES pos): 547/549 (M+H)+, base.

reactant | Dimethylsulfoxide | 105 mL | CS(=O)C | C2H6OS
reactant | imidazole-1-carboxylic acid (4-pyrrolidin-1-yl-butyl)-amide tetrahydrofuran | N1(CCCC1)CCCCNC(=O)N1C=NC=C1.O1CCCC1
reactant | 5-Amino-3-(4-bromo-2,6-difluoro-benzyloxy)-isothiazole-4-carboxylic acid methyl ester | 21.0 g, 1.00 equiv | COC(=O)C=1C(=NSC1N)OCC1=C(C=C(C=C1F)Br)F | C12H9BrF2N2O3S
reactant | potassium carbonate | 15.2 g, 2.0 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | water | 210 mL | O | H2O
solvent | Ethyl acetate | 210 mL | C(C)(=O)OCC | C4H8O2
product | 3-(4-Bromo-2,6-difluoro-benzyloxy)-5-[3-(4-pyrrolidin-1-yl-butyl)-ureido]-isothiazole-4-carboxylic acid methyl ester | 27.36 grams, 90% yield | COC(=O)C=1C(=NSC1NC(=O)NCCCCN1CCCC1)OCC1=C(C=C(C=C1F)Br)F | C21H25BrF2N4O4S
